US07608639B2
3-{4-[3-(4-Chloro-2-cyclohexyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid
A solution of 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester (0.1 g, 0.27 mmol), 4-chloro-2-cyclohexyl-phenol (63 mg, 0.3 mmol), copper(I) chloride (13 mg, 0.13 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.01 mL, 0.07 mmol), and cesium carbonate (105 mg, 0.32 mmol) in NMP (3 mL) is heated to 120° C. The reaction is stirred overnight and cooled to rt. The reaction is quenched with 1N aqueous HCl and extracted with ethyl ether. The organic layer is washed with brine, dried over sodium sulfate, and filtered. The solvent is removed to afford the crude ester intermediate. The intermediate is treated with 5N NaOH (0.4 mL, 2.2 mmol) in MeOH (5 mL) and heated to reflux. The reaction stirred at reflux for 2 hours and then cooled. The reaction is quenched with 1N aqueous HCl to obtain pH=4. The aqueous layer is extracted with ethyl ether. The organic layer is washed with brine, dried over sodium sulfate, and filtered. The solvent is removed to afford the crude product. The crude is purified by HPLC to afford 49 mg (38%) of desired product. 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C29H31ClO4 478, found 479 and 481 (M+1 and M+3, 100%).

reactant | 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | 0.27 mmol, 0.1 g | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)Br)C)=O | C18H19BrO3
reactant | 4-chloro-2-cyclohexyl-phenol | 0.3 mmol, 63 mg | ClC1=CC(=C(C=C1)O)C1CCCCC1 | C12H15ClO
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.07 mmol, 0.01 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 0.32 mmol, 105 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaOH | 2.2 mmol, 5N, 0.4 mL | [OH-].[Na+]
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | MeOH | 5 mL | CO | CH4O
catalyst | copper(I) chloride | 0.13 mmol, 13 mg | [Cu]Cl
product | 3-{4-[3-(4-Chloro-2-cyclohexyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid | 49 mg, 38% | ClC1=CC(=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=C(C2)C)C=C1)C1CCCCC1 | C29H31ClO4
